US08084448B2
A. 5-[4-((E)-2-Benzenesulfonylvinyl)-2-benzyloxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (80 mg, 0.18 mmol), ethenesulfonylbenzene (37 mg, 0.22 mmol), Pd(OAc)2 (2 mg) and triethylamine (186 mg, 1.84 mmol) in MeCN (2 mL) is heated at 120° C. in a microwave apparatus for 15 min. The mixture is filtered, poured into EtOAc and is washed with 1N HCl and brine then dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound: (M−1)−=483.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.18 mmol, 80 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | ethenesulfonylbenzene | 0.22 mmol, 37 mg | C(=C)S(=O)(=O)C1=CC=CC=C1 | C8H8O2S
reactant | triethylamine | 1.84 mmol, 186 mg | C(C)N(CC)CC | C6H15N
solvent | MeCN | 2 mL | CC#N | C2H3N
catalyst | Pd(OAc)2 | 2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-[4-((E)-2-Benzenesulfonylvinyl)-2-benzyloxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C1(=CC=CC=C1)S(=O)(=O)/C=C/C1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)OCC1=CC=CC=C1 | C23H20N2O6S2
